US08222263B2
A mixture of N-(2,6-dimethylphenyl)-4-{[4-phenyl-7-(phenylmethyl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-2-yl]amino}benzamide (60 mg, 0.11 mmol), prepared as described in Example 249, 1,4-cyclohexadiene (11 μL, 0.11 mmol) and 10% palladium on carbon (8 mg) in ethanol (2 mL) were heated to 80° C. overnight. Upon cooling to rt, the reaction mixture was filtered through celite and concentrated on a rotary evaporator. The resulting residue was purified by preparative reverse phase HPLC to give N-(2,6-dimethylphenyl)-4-[(4-phenyl-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-2-yl)amino]benzamide (31 mg, 62%) as a white solid. 1H NMR (400 MHz, DMSO-d6): δ 9.87 (s, 1H), 9.52 (s, 1H), 7.96 (m, 4H), 7.62 (m, 2H), 7.52 (m, 3H), 7.11 (m, 3H), 3.75 (m, 2H), 3.05 (m, 2H), 2.79 (m, 2H), 2.17 (s, 6H). MS (EI) for C28H27N5O: 450.2 (MH+).

reactant | N-(2,6-dimethylphenyl)-4-{[4-phenyl-7-(phenylmethyl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-2-yl]amino}benzamide | 0.11 mmol, 60 mg | CC1=C(C(=CC=C1)C)NC(C1=CC=C(C=C1)NC=1N=C(C2=C(N1)CN(CC2)CC2=CC=CC=C2)C2=CC=CC=C2)=O | C35H33N5O
reactant | 1,4-cyclohexadiene | 0.11 mmol, 11 μL | C1=CCC=CC1 | C6H8
catalyst | palladium on carbon | 8 mg | [Pd] | Pd
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | N-(2,6-dimethylphenyl)-4-[(4-phenyl-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-2-yl)amino]benzamide | 31 mg, 62% | CC1=C(C(=CC=C1)C)NC(C1=CC=C(C=C1)NC=1N=C(C2=C(N1)CNCC2)C2=CC=CC=C2)=O | C28H27N5O
